US06395734B1
3-{5-[6-(3-Ethoxy-phenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-4-methyl-1H-pyrrol-3-yl}-propionic acid
4-(2-carboxyethyl)-2-formyl-3-methylpyrrole (90.5 mg), 127 mg 6-(3-ethoxyphenyl)-2-oxindole and 2 drops piperidine in 2 mL of ethanol were heated at 90° C. overnight. The reaction mixture was cooled and concentrated. The residue was suspended in 6 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven overnight to give 200 mg (96%) of the title compound as a brown solid.

reactant | 4-(2-carboxyethyl)-2-formyl-3-methylpyrrole | 90.5 mg | C(=O)(O)CCC=1C(=C(NC1)C=O)C | C9H11NO3
reactant | 6-(3-ethoxyphenyl)-2-oxindole | 127 mg | C(C)OC=1C=C(C=CC1)C1=CC=C2CC(NC2=C1)=O | C16H15NO2
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-{5-[6-(3-Ethoxy-phenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-4-methyl-1H-pyrrol-3-yl}-propionic acid | 200 mg, 96% | C(C)OC=1C=C(C=CC1)C1=CC=C2C(C(NC2=C1)=O)=CC1=C(C(=CN1)CCC(=O)O)C | C25H24N2O4
